US08426449B2
Step 1: [3-(2-{[(4-Methoxy-benzenesulfonyl)-methyl-amino]-methyl}-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester
Prepared according to the procedure described in Example 22, Step 1, using the following starting materials: [3-(2-methylaminomethyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester and 4-methoxybenzenesulfonyl chloride.

reactant | [3-(2-methylaminomethyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)CNC)=O | C18H18F3NO3
reactant | 4-methoxybenzenesulfonyl chloride | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
product | [3-(2-{[(4-Methoxy-benzenesulfonyl)-methyl-amino]-methyl}-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)CN(C)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C25H24F3NO6S
